US09376427B2
1-Methylimidazole (24.6 g, 0.3 mol) was added to a stirred suspension of 5-chlorothiophene-2-carboxylic acid (16.25 g, 0.1 mol) in dichloromethane (162 ml) at 0-5° C. and the resulting solution was stirred for 10 minutes. A solution of methanesulfonyl chloride (12 g, 0.105 mol) in dichloromethane (40 ml) was added to the above solution at −5° C. The resulting solution was stirred for 1 hour at −5° C. to produce a reaction mass containing the sulfonyl ester intermediate, followed by portion wise addition of racemic 4-[4-[5-(aminomethyl)-2-oxo-1,3-oxazolidin-3-yl]phenyl]morpholine-3-one (29.1 g, 0.1 mol). The reaction mixture was stirred for 2 hours at 25-30° C., followed by the addition of water (162 ml) and then stirring for 15 minutes. The separated solid was filtered, washed with dichloromethane (50 ml) and water (100 ml), and the resulting wet material was dried at 80-85° C. for 3 to 4 hours to produce 39.1 g of pure racemic 5-chloro-N-[[2-oxo-3-[4-(3-oxomorpholin-4-yl)phenyl]oxazolidin-5-yl]methyl]thiophene-2-carboxamide as a white crystalline solid (Theoretical Yield: 90%; Purity by HPLC: 99.9%).

reactant | 1-Methylimidazole | 0.3 mol, 24.6 g | CN1C=NC=C1 | C4H6N2
reactant | 5-chlorothiophene-2-carboxylic acid | 0.1 mol, 16.25 g | ClC1=CC=C(S1)C(=O)O | C5H3ClO2S
reactant | methanesulfonyl chloride | 0.105 mol, 12 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | racemic 4-[4-[5-(aminomethyl)-2-oxo-1,3-oxazolidin-3-yl]phenyl]morpholine-3-one | 0.1 mol, 29.1 g | NCC1CN(C(O1)=O)C1=CC=C(C=C1)N1C(COCC1)=O | C14H17N3O4
solvent | dichloromethane | 162 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | water | 162 ml | O | H2O
product | racemic 5-chloro-N-[[2-oxo-3-[4-(3-oxomorpholin-4-yl)phenyl]oxazolidin-5-yl]methyl]thiophene-2-carboxamide | 39.1 g, Yield: 90% | ClC1=CC=C(S1)C(=O)NCC1CN(C(O1)=O)C1=CC=C(C=C1)N1C(COCC1)=O | C19H18ClN3O5S
